US05270308
Acetyl chloride (43.3 g) was added dropwise with ice-cooling to a solution of 5-cyano-salicylic acid (29.0 g) and triethylamine (54.0 g) in dichloromethane (300 ml). After the addition was complete, the reaction mixture was stirred for 2 hours at ice-cooling temperature to room temperature. The solvent was distilled off under reduced pressure and the residue was extracted by addition of ethyl acetate and an aqueous potassium bisulfate solution. The ethyl acetate layer was washed with saturated saline solution, dried over anhydrous magnesium sulfate. The solvent was distilled off to obtain oil. This oil was dissolved in 1,2-dichloroethane (100 ml), and thionyl chloride (42.4 g) and dimethylformamide (0.5 ml) were added to the mixture, and the resulting mixture was heated under reflux for 1 hour. After air cooling, the solvent was distilled off under reduced pressure, and the residue was dissolved in tetrahydrofuran (100 ml). This solution was added with ice cooling to a mixed solution of aqueous ammonia (100 ml) and tetrahydrofuran (100 ml), and the mixture was stirred for 1 hour. An aqueous potassium bisulfate solution was added to the mixture to adjust to pH 2 to 3, and the mixture was extracted with ethyl acetate-tetrahydrofuran three times. The organic layers were combined and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain crude 5-cyano-salicylamide.

reactant | Acetyl chloride | 43.3 g | C(C)(=O)Cl | C2H3ClO
reactant | 5-cyano-salicylic acid | 29.0 g | C(#N)C1=CC=C(C(C(=O)O)=C1)O | C8H5NO3
reactant | triethylamine | 54.0 g | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 42.4 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 5-cyano-salicylamide | C(#N)C1=CC=C(C(C(=O)N)=C1)O | C8H6N2O2
